* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : BG_PNP_array                                 *
* Netlisted  : Mon Jun 22 00:51:43 2026                     *
* PVS Version: 24.11-s045 Mon Jan 27 22:18:54 PST 2025      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 Q(pnp5ux5u) PNP5UX5U PW1V2(C) PNPBASE(B) PNPEMIT5UX5U(E)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: Contact_CDNS_782089499331                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt Contact_CDNS_782089499331 1
*.DEVICECLIMB
** N=1 EP=1 FDC=0
.ends Contact_CDNS_782089499331

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: Contact_CDNS_782089499332                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt Contact_CDNS_782089499332 1
** N=1 EP=1 FDC=0
.ends Contact_CDNS_782089499332

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: Contact_CDNS_782089499333                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt Contact_CDNS_782089499333 1
** N=1 EP=1 FDC=0
.ends Contact_CDNS_782089499333

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AbutContact_CDNS_782089499334                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AbutContact_CDNS_782089499334 1
** N=1 EP=1 FDC=0
.ends AbutContact_CDNS_782089499334

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AbutContact_CDNS_782089499335                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AbutContact_CDNS_782089499335 1
** N=1 EP=1 FDC=0
.ends AbutContact_CDNS_782089499335

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AbutContact_CDNS_782089499336                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AbutContact_CDNS_782089499336 1
** N=1 EP=1 FDC=0
.ends AbutContact_CDNS_782089499336

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AbutContact_CDNS_782089499337                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AbutContact_CDNS_782089499337 1
** N=1 EP=1 FDC=0
.ends AbutContact_CDNS_782089499337

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: Contact_CDNS_782089499338                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt Contact_CDNS_782089499338 1
** N=1 EP=1 FDC=0
.ends Contact_CDNS_782089499338

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pnp5ux5u_CDNS_782089499330                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pnp5ux5u_CDNS_782089499330 1 2
*.DEVICECLIMB
** N=2 EP=2 FDC=0
X0 2 Contact_CDNS_782089499331 $T=1620 1620 0 0 $X=1500 $Y=1500
X1 2 Contact_CDNS_782089499332 $T=1665 1665 0 0 $X=1500 $Y=1500
X2 1 Contact_CDNS_782089499333 $T=-780 -1150 0 0 $X=-860 $Y=-1180
X3 1 Contact_CDNS_782089499333 $T=-780 5890 0 0 $X=-860 $Y=5860
X4 1 AbutContact_CDNS_782089499334 $T=-130 -510 0 0 $X=-280 $Y=-600
X5 1 AbutContact_CDNS_782089499334 $T=-130 5250 0 0 $X=-280 $Y=5160
X6 1 AbutContact_CDNS_782089499335 $T=-510 -480 0 0 $X=-600 $Y=-600
X7 1 AbutContact_CDNS_782089499335 $T=5250 -480 0 0 $X=5160 $Y=-600
X8 1 AbutContact_CDNS_782089499336 $T=-860 -1180 0 0 $X=-1020 $Y=-1340
X9 1 AbutContact_CDNS_782089499336 $T=-860 5860 0 0 $X=-1020 $Y=5700
X10 1 AbutContact_CDNS_782089499337 $T=-1180 -1180 0 0 $X=-1340 $Y=-1340
X11 1 AbutContact_CDNS_782089499337 $T=5860 -1180 0 0 $X=5700 $Y=-1340
X12 1 Contact_CDNS_782089499338 $T=-1150 -780 0 0 $X=-1180 $Y=-860
X13 1 Contact_CDNS_782089499338 $T=5890 -780 0 0 $X=5860 $Y=-860
.ends pnp5ux5u_CDNS_782089499330

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pnp5ux5u_CDNS_782089499339                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pnp5ux5u_CDNS_782089499339 1 2
*.DEVICECLIMB
** N=2 EP=2 FDC=1
X0 2 Contact_CDNS_782089499331 $T=1620 1620 0 0 $X=1500 $Y=1500
X1 2 Contact_CDNS_782089499332 $T=1665 1665 0 0 $X=1500 $Y=1500
X2 1 Contact_CDNS_782089499333 $T=-780 -1150 0 0 $X=-860 $Y=-1180
X3 1 Contact_CDNS_782089499333 $T=-780 5890 0 0 $X=-860 $Y=5860
X4 1 AbutContact_CDNS_782089499334 $T=-130 -510 0 0 $X=-280 $Y=-600
X5 1 AbutContact_CDNS_782089499334 $T=-130 5250 0 0 $X=-280 $Y=5160
X6 1 AbutContact_CDNS_782089499335 $T=-510 -480 0 0 $X=-600 $Y=-600
X7 1 AbutContact_CDNS_782089499335 $T=5250 -480 0 0 $X=5160 $Y=-600
X8 1 AbutContact_CDNS_782089499336 $T=-860 -1180 0 0 $X=-1020 $Y=-1340
X9 1 AbutContact_CDNS_782089499336 $T=-860 5860 0 0 $X=-1020 $Y=5700
X10 1 AbutContact_CDNS_782089499337 $T=-1180 -1180 0 0 $X=-1340 $Y=-1340
X11 1 AbutContact_CDNS_782089499337 $T=5860 -1180 0 0 $X=5700 $Y=-1340
X12 1 Contact_CDNS_782089499338 $T=-1150 -780 0 0 $X=-1180 $Y=-860
X13 1 Contact_CDNS_782089499338 $T=5890 -780 0 0 $X=5860 $Y=-860
Q0 1 1 2 pnp5ux5u ae=2.5e-11 m=1 $X=-860 $Y=-860 $dt=0
.ends pnp5ux5u_CDNS_782089499339

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pnp5ux5u_CDNS_7820894993310                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pnp5ux5u_CDNS_7820894993310 1 2
*.DEVICECLIMB
** N=2 EP=2 FDC=0
X0 2 Contact_CDNS_782089499331 $T=1620 1620 0 0 $X=1500 $Y=1500
X1 2 Contact_CDNS_782089499332 $T=1665 1665 0 0 $X=1500 $Y=1500
X2 1 Contact_CDNS_782089499333 $T=-780 -1150 0 0 $X=-860 $Y=-1180
X3 1 Contact_CDNS_782089499333 $T=-780 5890 0 0 $X=-860 $Y=5860
X4 1 AbutContact_CDNS_782089499334 $T=-130 -510 0 0 $X=-280 $Y=-600
X5 1 AbutContact_CDNS_782089499334 $T=-130 5250 0 0 $X=-280 $Y=5160
X6 1 AbutContact_CDNS_782089499335 $T=-510 -480 0 0 $X=-600 $Y=-600
X7 1 AbutContact_CDNS_782089499335 $T=5250 -480 0 0 $X=5160 $Y=-600
X8 1 AbutContact_CDNS_782089499336 $T=-860 -1180 0 0 $X=-1020 $Y=-1340
X9 1 AbutContact_CDNS_782089499336 $T=-860 5860 0 0 $X=-1020 $Y=5700
X10 1 AbutContact_CDNS_782089499337 $T=-1180 -1180 0 0 $X=-1340 $Y=-1340
X11 1 AbutContact_CDNS_782089499337 $T=5860 -1180 0 0 $X=5700 $Y=-1340
X12 1 Contact_CDNS_782089499338 $T=-1150 -780 0 0 $X=-1180 $Y=-860
X13 1 Contact_CDNS_782089499338 $T=5890 -780 0 0 $X=5860 $Y=-860
.ends pnp5ux5u_CDNS_7820894993310

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: MASCO__A1                                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt MASCO__A1 1 2
*.DEVICECLIMB
** N=2 EP=2 FDC=0
X0 2 1 pnp5ux5u_CDNS_7820894993310 $T=1340 1340 0 0 $X=0 $Y=0
X1 2 1 pnp5ux5u_CDNS_7820894993310 $T=8380 1340 0 0 $X=7040 $Y=0
.ends MASCO__A1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: MASCO__B2                                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt MASCO__B2 1 2 3
*.DEVICECLIMB
** N=3 EP=3 FDC=0
X0 1 2 MASCO__A1 $T=0 0 0 0 $X=0 $Y=0
X1 3 2 MASCO__A1 $T=0 7040 0 0 $X=0 $Y=7040
.ends MASCO__B2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: MASCO__A3                                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt MASCO__A3 1 2 3
*.DEVICECLIMB
** N=3 EP=3 FDC=2
X0 2 3 1 MASCO__B2 $T=0 0 0 0 $X=0 $Y=0
X1 2 3 1 MASCO__B2 $T=14080 0 0 0 $X=14080 $Y=0
Q0 3 3 1 pnp5ux5u ae=2.5e-11 m=1 $X=7520 $Y=7520 $dt=0
Q1 3 3 1 pnp5ux5u ae=2.5e-11 m=1 $X=14560 $Y=7520 $dt=0
.ends MASCO__A3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: MASCO__B4                                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt MASCO__B4 1 2 3
*.DEVICECLIMB
** N=3 EP=3 FDC=9
X0 3 1 2 MASCO__A3 $T=0 0 0 0 $X=0 $Y=0
X1 3 3 2 MASCO__A3 $T=0 14080 0 0 $X=0 $Y=14080
Q0 2 2 3 pnp5ux5u ae=2.5e-11 m=1 $X=7520 $Y=14560 $dt=0
Q1 2 2 3 pnp5ux5u ae=2.5e-11 m=1 $X=14560 $Y=14560 $dt=0
Q2 2 2 3 pnp5ux5u ae=2.5e-11 m=1 $X=21600 $Y=7520 $dt=0
Q3 2 2 3 pnp5ux5u ae=2.5e-11 m=1 $X=21600 $Y=14560 $dt=0
Q4 2 2 3 pnp5ux5u ae=2.5e-11 m=1 $X=21600 $Y=21600 $dt=0
.ends MASCO__B4

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: BG_PNP_array                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt BG_PNP_array A B GNDA
** N=3 EP=3 FDC=266
X0 GNDA B pnp5ux5u_CDNS_782089499330 $T=129820 59315 0 0 $X=128480 $Y=57975
X1 GNDA A pnp5ux5u_CDNS_782089499339 $T=66460 52275 0 0 $X=65120 $Y=50935
X2 GNDA B pnp5ux5u_CDNS_7820894993310 $T=59420 52275 0 0 $X=58080 $Y=50935
X3 GNDA GNDA pnp5ux5u_CDNS_7820894993310 $T=129820 2995 0 0 $X=128480 $Y=1655
X4 GNDA GNDA pnp5ux5u_CDNS_7820894993310 $T=129820 10035 0 0 $X=128480 $Y=8695
X5 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 17075 0 0 $X=128480 $Y=15735
X6 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 24115 0 0 $X=128480 $Y=22775
X7 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 31155 0 0 $X=128480 $Y=29815
X8 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 38195 0 0 $X=128480 $Y=36855
X9 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 45235 0 0 $X=128480 $Y=43895
X10 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 52275 0 0 $X=128480 $Y=50935
X11 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 66355 0 0 $X=128480 $Y=65015
X12 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 73395 0 0 $X=128480 $Y=72055
X13 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 80435 0 0 $X=128480 $Y=79095
X14 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 87475 0 0 $X=128480 $Y=86135
X15 GNDA B pnp5ux5u_CDNS_7820894993310 $T=129820 94515 0 0 $X=128480 $Y=93175
X16 B GNDA MASCO__A1 $T=58080 43895 0 0 $X=58080 $Y=43895
X17 GNDA GNDA GNDA MASCO__B2 $T=114400 1655 0 0 $X=114400 $Y=1655
X18 B GNDA B MASCO__B2 $T=114400 15735 0 0 $X=114400 $Y=15735
X19 B GNDA B MASCO__B2 $T=114400 29815 0 0 $X=114400 $Y=29815
X20 B GNDA B MASCO__B2 $T=114400 57975 0 0 $X=114400 $Y=57975
X21 B GNDA B MASCO__B2 $T=114400 72055 0 0 $X=114400 $Y=72055
X22 B GNDA B MASCO__B2 $T=114400 86135 0 0 $X=114400 $Y=86135
X23 B B GNDA MASCO__A3 $T=1760 86135 0 0 $X=1760 $Y=86135
X24 B B GNDA MASCO__A3 $T=29920 86135 0 0 $X=29920 $Y=86135
X25 B B GNDA MASCO__A3 $T=58080 29815 0 0 $X=58080 $Y=29815
X26 B B GNDA MASCO__A3 $T=58080 86135 0 0 $X=58080 $Y=86135
X27 B B GNDA MASCO__A3 $T=72160 43895 0 0 $X=72160 $Y=43895
X28 B B GNDA MASCO__A3 $T=86240 29815 0 0 $X=86240 $Y=29815
X29 B B GNDA MASCO__A3 $T=86240 86135 0 0 $X=86240 $Y=86135
X30 B B GNDA MASCO__A3 $T=100320 43895 0 0 $X=100320 $Y=43895
X31 B GNDA B MASCO__B4 $T=1760 1655 0 0 $X=1760 $Y=1655
X32 B GNDA B MASCO__B4 $T=1760 29815 0 0 $X=1760 $Y=29815
X33 B GNDA B MASCO__B4 $T=1760 57975 0 0 $X=1760 $Y=57975
X34 B GNDA B MASCO__B4 $T=29920 1655 0 0 $X=29920 $Y=1655
X35 B GNDA B MASCO__B4 $T=29920 29815 0 0 $X=29920 $Y=29815
X36 B GNDA B MASCO__B4 $T=29920 57975 0 0 $X=29920 $Y=57975
X37 B GNDA B MASCO__B4 $T=58080 1655 0 0 $X=58080 $Y=1655
X38 B GNDA B MASCO__B4 $T=58080 57975 0 0 $X=58080 $Y=57975
X39 GNDA GNDA B MASCO__B4 $T=86240 1655 0 0 $X=86240 $Y=1655
X40 B GNDA B MASCO__B4 $T=86240 57975 0 0 $X=86240 $Y=57975
Q0 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=2135 $dt=0
Q1 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=9175 $dt=0
Q2 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=16215 $dt=0
Q3 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=23255 $dt=0
Q4 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=30295 $dt=0
Q5 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=37335 $dt=0
Q6 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=44375 $dt=0
Q7 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=51415 $dt=0
Q8 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=58455 $dt=0
Q9 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=65495 $dt=0
Q10 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=72535 $dt=0
Q11 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=79575 $dt=0
Q12 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=86615 $dt=0
Q13 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=2240 $Y=93655 $dt=0
Q14 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=9280 $Y=2135 $dt=0
Q15 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=9280 $Y=30295 $dt=0
Q16 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=9280 $Y=58455 $dt=0
Q17 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=9280 $Y=86615 $dt=0
Q18 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=16320 $Y=2135 $dt=0
Q19 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=16320 $Y=30295 $dt=0
Q20 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=16320 $Y=58455 $dt=0
Q21 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=16320 $Y=86615 $dt=0
Q22 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=23360 $Y=2135 $dt=0
Q23 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=23360 $Y=30295 $dt=0
Q24 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=23360 $Y=58455 $dt=0
Q25 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=23360 $Y=86615 $dt=0
Q26 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=23360 $Y=93655 $dt=0
Q27 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=2135 $dt=0
Q28 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=9175 $dt=0
Q29 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=16215 $dt=0
Q30 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=23255 $dt=0
Q31 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=30295 $dt=0
Q32 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=37335 $dt=0
Q33 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=44375 $dt=0
Q34 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=51415 $dt=0
Q35 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=58455 $dt=0
Q36 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=65495 $dt=0
Q37 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=72535 $dt=0
Q38 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=79575 $dt=0
Q39 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=86615 $dt=0
Q40 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=30400 $Y=93655 $dt=0
Q41 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=37440 $Y=2135 $dt=0
Q42 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=37440 $Y=30295 $dt=0
Q43 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=37440 $Y=58455 $dt=0
Q44 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=37440 $Y=86615 $dt=0
Q45 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=44480 $Y=2135 $dt=0
Q46 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=44480 $Y=30295 $dt=0
Q47 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=44480 $Y=58455 $dt=0
Q48 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=44480 $Y=86615 $dt=0
Q49 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=51520 $Y=2135 $dt=0
Q50 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=51520 $Y=30295 $dt=0
Q51 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=51520 $Y=58455 $dt=0
Q52 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=51520 $Y=86615 $dt=0
Q53 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=51520 $Y=93655 $dt=0
Q54 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=2135 $dt=0
Q55 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=9175 $dt=0
Q56 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=16215 $dt=0
Q57 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=23255 $dt=0
Q58 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=30295 $dt=0
Q59 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=37335 $dt=0
Q60 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=44375 $dt=0
Q61 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=51415 $dt=0
Q62 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=58455 $dt=0
Q63 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=65495 $dt=0
Q64 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=72535 $dt=0
Q65 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=79575 $dt=0
Q66 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=86615 $dt=0
Q67 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=58560 $Y=93655 $dt=0
Q68 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=65600 $Y=2135 $dt=0
Q69 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=65600 $Y=30295 $dt=0
Q70 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=65600 $Y=44375 $dt=0
Q71 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=65600 $Y=58455 $dt=0
Q72 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=65600 $Y=86615 $dt=0
Q73 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=72640 $Y=2135 $dt=0
Q74 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=72640 $Y=30295 $dt=0
Q75 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=72640 $Y=44375 $dt=0
Q76 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=72640 $Y=51415 $dt=0
Q77 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=72640 $Y=58455 $dt=0
Q78 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=72640 $Y=86615 $dt=0
Q79 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=79680 $Y=2135 $dt=0
Q80 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=79680 $Y=30295 $dt=0
Q81 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=79680 $Y=37335 $dt=0
Q82 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=79680 $Y=44375 $dt=0
Q83 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=79680 $Y=58455 $dt=0
Q84 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=79680 $Y=86615 $dt=0
Q85 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=79680 $Y=93655 $dt=0
Q86 GNDA GNDA GNDA pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=2135 $dt=0
Q87 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=9175 $dt=0
Q88 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=16215 $dt=0
Q89 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=23255 $dt=0
Q90 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=30295 $dt=0
Q91 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=37335 $dt=0
Q92 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=44375 $dt=0
Q93 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=58455 $dt=0
Q94 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=65495 $dt=0
Q95 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=72535 $dt=0
Q96 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=79575 $dt=0
Q97 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=86615 $dt=0
Q98 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=86720 $Y=93655 $dt=0
Q99 GNDA GNDA GNDA pnp5ux5u ae=2.5e-11 m=1 $X=93760 $Y=2135 $dt=0
Q100 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=93760 $Y=30295 $dt=0
Q101 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=93760 $Y=44375 $dt=0
Q102 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=93760 $Y=51415 $dt=0
Q103 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=93760 $Y=58455 $dt=0
Q104 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=93760 $Y=86615 $dt=0
Q105 GNDA GNDA GNDA pnp5ux5u ae=2.5e-11 m=1 $X=100800 $Y=2135 $dt=0
Q106 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=100800 $Y=30295 $dt=0
Q107 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=100800 $Y=44375 $dt=0
Q108 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=100800 $Y=51415 $dt=0
Q109 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=100800 $Y=58455 $dt=0
Q110 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=100800 $Y=86615 $dt=0
Q111 GNDA GNDA GNDA pnp5ux5u ae=2.5e-11 m=1 $X=107840 $Y=2135 $dt=0
Q112 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=107840 $Y=30295 $dt=0
Q113 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=107840 $Y=37335 $dt=0
Q114 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=107840 $Y=44375 $dt=0
Q115 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=107840 $Y=58455 $dt=0
Q116 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=107840 $Y=86615 $dt=0
Q117 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=107840 $Y=93655 $dt=0
Q118 GNDA GNDA GNDA pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=2135 $dt=0
Q119 GNDA GNDA GNDA pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=9175 $dt=0
Q120 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=16215 $dt=0
Q121 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=23255 $dt=0
Q122 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=30295 $dt=0
Q123 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=37335 $dt=0
Q124 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=44375 $dt=0
Q125 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=58455 $dt=0
Q126 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=65495 $dt=0
Q127 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=72535 $dt=0
Q128 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=79575 $dt=0
Q129 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=86615 $dt=0
Q130 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=114880 $Y=93655 $dt=0
Q131 GNDA GNDA GNDA pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=2135 $dt=0
Q132 GNDA GNDA GNDA pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=9175 $dt=0
Q133 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=16215 $dt=0
Q134 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=23255 $dt=0
Q135 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=30295 $dt=0
Q136 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=37335 $dt=0
Q137 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=44375 $dt=0
Q138 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=51415 $dt=0
Q139 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=58455 $dt=0
Q140 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=65495 $dt=0
Q141 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=72535 $dt=0
Q142 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=79575 $dt=0
Q143 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=86615 $dt=0
Q144 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=121920 $Y=93655 $dt=0
Q145 GNDA GNDA GNDA pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=2135 $dt=0
Q146 GNDA GNDA GNDA pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=9175 $dt=0
Q147 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=16215 $dt=0
Q148 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=23255 $dt=0
Q149 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=30295 $dt=0
Q150 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=37335 $dt=0
Q151 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=44375 $dt=0
Q152 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=51415 $dt=0
Q153 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=58455 $dt=0
Q154 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=65495 $dt=0
Q155 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=72535 $dt=0
Q156 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=79575 $dt=0
Q157 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=86615 $dt=0
Q158 GNDA GNDA B pnp5ux5u ae=2.5e-11 m=1 $X=128960 $Y=93655 $dt=0
.ends BG_PNP_array
